US06500956B1
5.00 g of 2-chloroquinoline and 1.80 g of sodium hydroxide are dissolved in a mixture of 20 ml of water and 16 ml of methanol. Following the addition of 1.5 g of palladium (10% by weight on activated carbon) as catalyst, the mixture is stirred for 24 h at 80-85° C. at 0.1 MPa. Then, following cooling, the catalyst and the precipitated product are filtered off. Extraction of the catalyst gives 1.7 g of 2,2′-biquinoline (43% yield). According to 1H NMR, the crude product has a purity of about 98%. CAS Registry Number: 119-91-5.

reactant | 2-chloroquinoline | 5.00 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | sodium hydroxide | 1.80 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | methanol | 16 ml | CO | CH4O
catalyst | palladium | 1.5 g | [Pd] | Pd
product | 2,2′-biquinoline | 1.7 g, 43% yield | N1=C(C=CC2=CC=CC=C12)C1=NC2=CC=CC=C2C=C1 | C18H12N2
